US05840732
i) Synthesis of 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione
1.45 g (5 mmol) of 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione and 20 ml of ethanol were placed in a reaction flask, followed by stirring at 60° C. for 20 minutes, to dissolve the starting materials. After this mixture was kept standing to 50° C., an ethanol solution of 0.05 ml (0.5 mmol) of pyrrolidine was added. Next, an ethanol solution of 0.66 ml (5 mmol) of 3-phenylpropionaldehyde was added, followed by refluxing for 19 hours. 3.5 hours later, 0.66 ml (5 mmol) of 3-phenylpropionaldehyde and 0.05 ml (0.5 mmol) of pyrrolidine were added. After the reaction mixture was cooled, the solvent was distilled off, followed by extraction with dichloromethane and water. After the organic layer was dried with sodium sulfate, the solvent was distilled off. The residue was eluted by column chromatography (eluent, hexane/ethyl acetate=1/2) to yield 15 mg (0.74%, yellow oily substance) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione | 5 mmol, 1.45 g | N=1C=CN2C1C(=CC=C2)OCCCCN2C(OCC2=O)=O | C14H15N3O4
reactant | pyrrolidine | 0.5 mmol, 0.05 ml | N1CCCC1 | C4H9N
reactant | 3-phenylpropionaldehyde | 5 mmol, 0.66 ml | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | 3-phenylpropionaldehyde | 5 mmol, 0.66 ml | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | pyrrolidine | 0.5 mmol, 0.05 ml | N1CCCC1 | C4H9N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione | C1(=CC=CC=C1)CCC=C1C(N(C(O1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C23H23N3O4
